US05134128
4-(1-Acetoxy-4-phenylbutyl)-2-trimethylsilylfuran
A solution of 4-(1-hydroxy-4-phenylbutyl)-2-trimethylsilylfuran (0.249 g., 0.862 mmol), acetic anhydride (1 ml, excess) and pyridine (3 to 4 drops, excess) was stirred at room temperature until no starting material remained (as monitored by TLC). The reaction mixture was then partitioned between ethyl ether and a 5% ammonium chloride solution. The organic portion was washed repeatedly with saturated sodium bicarbonate solution, twice with aqueous cupric sulfate solution, water, saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated to give a pale yellow oil (0.396 g). This material was further purified by flash chromatography (silica, 5% ethyl acetate/hexane) to give the desired acetate.

reactant | 4-(1-hydroxy-4-phenylbutyl)-2-trimethylsilylfuran | 0.862 mmol, 0.249 g | OC(CCCC1=CC=CC=C1)C=1C=C(OC1)[Si](C)(C)C | C17H24O2Si
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | pyridine | 3 to 4 drops | N1=CC=CC=C1 | C5H5N
product | 4-(1-Acetoxy-4-phenylbutyl)-2-trimethylsilylfuran | 0.396 g | C(C)(=O)OC(CCCC1=CC=CC=C1)C=1C=C(OC1)[Si](C)(C)C | C19H26O3Si
